US09403782B2
To a mixture of 7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one (50 mg, 0.163 mmol), 5-(chloromethyl)-3-methyl-1,2,4-oxadiazole (47.5 mg, 0.359 mmol), and potassium carbonate (68 mg, 9.68 mmol) was added DMF (1 mL) and the reaction was heated to 80° C. overnight. The reaction was diluted with EtOAc and water, the layers were separated, and the organic layer was concentrated to an oil. The residue was purified by flash chromatography (Rf=0.32, 1:1 hexanes/ethyl acetate) to afford 2-((3-methyl-1,2,4-oxadiazol-5-yl)methyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one as a white solid. C19H13F3N4O3. 403.1 (M+1). 1H NMR (DMSO) δ 8.58 (s, 1H), 8.48 (d, J=2.0 Hz, 1H), 8.34 (dd, J=2.0, 8.4 Hz, 1H), 8.12 (d, J=8.4 Hz, 1H), 7.98-8.02 (m, 2H), 7.54 (d, J=8.0 Hz, 1H), 5.67 (s, 2H), 2.31 (s, 1H).

reactant | 7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one | 0.163 mmol, 50 mg | FC(OC1=CC=C(C=C1)C1=CC=C2C=NNC(C2=C1)=O)(F)F | C15H9F3N2O2
reactant | 5-(chloromethyl)-3-methyl-1,2,4-oxadiazole | 0.359 mmol, 47.5 mg | ClCC1=NC(=NO1)C | C4H5ClN2O
reactant | potassium carbonate | 9.68 mmol, 68 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 2-((3-methyl-1,2,4-oxadiazol-5-yl)methyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one | CC1=NOC(=N1)CN1C(C2=CC(=CC=C2C=N1)C1=CC=C(C=C1)OC(F)(F)F)=O | C19H13F3N4O3
